Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Compazine / Morphine Sulfate / Codeine / Percocet / Penicillins 
/ Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
pain rt wrist after fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yo f s/p fall after tripping on stair hit head no loc came to 
er for eval
 
Past Medical History:
gerd
 
Social History:
___
Family History:
non contrib
 
Physical Exam:
Temp: 98.9 HR: 78 BP: 133/93 Resp: 16 O(2)Sat: 96 Normal
 
Constitutional: Comfortable
HEENT: Slight hematoma occiput
Oropharynx within normal limits, no midline TTP
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender
GU/Flank: No costovertebral angle tenderness
Extr/Back: Sig swelling and tenderness at L wrist
Skin: No rash
Neuro: Speech fluent, m/r/u intact,
motor/strenght/sensation intact

 
Pertinent Results:
___ 12:05AM BLOOD WBC-11.1* RBC-4.17* Hgb-13.1 Hct-39.9 
MCV-96 MCH-31.5 MCHC-33.0 RDW-12.2 Plt ___
___ 12:05AM BLOOD Plt ___
 
Brief Hospital Course:
on ___ pt xraysc were reviewed by Dr ___ pt was seen 
and exaimed. She did not want surgery and after disscussing 
risks and benifits Dr ___ it would be acceptable to 
try a non op approach. pt would f/u with him in one week for 
xrays . Pt agreed and family was aware 
 
Medications on Admission:
none
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
do not take more than ___ mg in 24 hrs 
2. Calcium Carbonate 500 mg PO TID 
RX *calcium carbonate 500 mg calcium (1,250 mg) 1 tablet(s) by 
mouth three times a day Disp #*100 Tablet Refills:*5
3. Vitamin D 400 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 50,000 unit 1 capsule(s) by 
mouth once a day Disp #*50 Capsule Refills:*5

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
right distal radius fx
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
keep hand elevated when at rest on 2 pillows
use sling when ambulating
keep splint dry 
if numbness or tingling occurs please go to nearest ER
Physical Therapy:
Activity:   Activity:  Activity as tolerated
 Right upper extremity:  Full weight bearing
 Left upper extremity:  Non weight bearing
 Sling:   At all times

Treatment Frequency:
keep elevated on 2 pillows 
wear sling when ambulating
 
Followup Instructions:
___